* C:\Users\hop\Documents\GitHub\LTspice\12-capacitors\02-865090140001_constant_esr.asc
C1 c 0 10µ V=6.3 Irms=15m
R§ESR esl_c z {esr_val} tol=1 pwr=0.1
I1 0 z AC 1
L§ESL esl_c c 1.924n
.param esr_val=2.318
.ac dec 100 100 10G
* 865090140001 WCAP-ASLU
* Wurth Elektronik
.backanno
.end
