*******************************************************************************
*****************************************************************
* NXP PSMN012_80PS
*
* Polarity N-Channel
* Ratings 80V/1.10E-02OHMS/25A
*
* Date Created Fri Feb 19 08:28:47 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN012_80PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.31887015786126e-09
RLS2 SOURCE 8 5.82795143938828
RLS1 8 7 0.000787717746675436

RDS 7 4 26666666.6666667 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0076123680006517 TC=0.00863119360491043,-1.2534540187666e-05
RBD 9 4 0.00106822706364413 TC=0.00863119360491043,-1.2534540187666e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.632e-09
RG 1 2 0.967840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	2334
+ -8	2329
+ -6	2301
+ -4	2094
+ -2	1543
+ 0	674
+ 0.1	508
+ 0.2	474
+ 0.5	398
+ 1	313
+ 2	216
+ 5	187
+ 10	172
+ 20	152
+ 25	145
+ 40	131



.MODEL MINT NMOS(Vto=3.86773580514964 Kp=7.0927e+02 Nfs=760000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=55)

.MODEL DBD D(Bv=89.60 Ibv=2.50E-04 Rs=1E-6 Is=1.28355983252429e-12
+ N=1 M=0.720000000000001 VJ=0.88 Fc=0.5 Cjo=1.488e-09 Tt=2.25e-08)

.ENDS

*******************************************************************************
