*** MACROMODEL FOR MAX4094 ***
*******************************************

.SUBCKT MAX4094 OUT1 IN1- IN1+ VCC IN2+ IN2- OUT2 OUT3 IN3- IN3+ VEE IN4+ IN4- OUT4
 XAMP1 VCC VEE IN1+ IN1- OUT1 MAX4091
 XAMP2 VCC VEE IN2+ IN2- OUT2 MAX4091
 XAMP3 VCC VEE IN3+ IN3- OUT3 MAX4091
 XAMP4 VCC VEE IN4+ IN4- OUT4 MAX4091
.ENDS
*******************************************
.subckt MAX4091 VCC VEE IN+ IN- OUT

***Iq Variation with Vdd & Load***
I_Iq         VCC VEE DC 9.739130e-005
G_GQ         VCC VEE VINT VEE 6.521739e-006
X_FLq    N9753217 OUT VEE VCC OpAmp_FLq

***Vdd Range***
X_M3         VO N9753121 VEE VEE nmosmacro
X_M4         VO N9753137 VEE VEE nmosmacro
E_EL         N9753121 VEE VINT N97538991 -1E5
E_EH         N9753137 VEE VINT N97539451 1E5
V_VL         N97538991 VEE 2.700000e+000
V_VH         N97539451 VEE 6.000000e+000

*** Power-up Delay Time ***
C_Cst         VEE N9752795  1n
D_Dst         N9752795 N9755113 diodemacro 
G_Gst         N9752795 VEE VCC VEE -5.000000e-004
E_Est1         N9755113 VEE VCC VEE 1
E_Est2         VINT VEE N9752795 VEE 1

***Input Parameters***
I_Ib+         IN+ VEE DC 2.010000e-008
I_Ib-         IN- VEE DC 1.990000e-008
R_Ri+         VCM IN+  5.000000e+011
R_Ri-         IN- VCM  5.000000e+011
V_Voff         N9752739 IN- -3.000000e-005

***ICMR***
X_M1         VO N9754397 VEE VEE nmosmacro
X_M2         VO N9754361 VEE VEE nmosmacro
E_EicL         N9754361 VEE VCM N97542791 -5E6
E_EicH         N9754397 VEE VCM N97544611 1E5
V_VicL         N97542791 VEE -5.000000e-002
V_VicH         N97544611 VINT 5.000000e-002

*** GBW Product & Slew Rate ***
G_Gg         VM VEE IN+ N9752739 -1
R_Rg         VEE VM  1.792370e+005
C_Cgbw         VEE VGBW  3.183099e-007
D_D1         VM N9753845 diodemacro 
D_D2         N9753721 VM diodemacro 
I_Isr         N9753845 N9753721 DC 6.366198e-002
D_D3         VGBW N9753845 diodemacro 
D_D4         N9753721 VGBW diodemacro 

*** Phase Margin ***
G_Gpm         N9752755 VEE VGBW VEE -1
R_Rpm         VEE N9752755  1  
C_Cpm         VEE N9752755 1.837763e-007

*** PSRR ***
C_Cps         VINT N9754047  16m  
L_Lps         N9753297 VEE  3.160362e-005
R_Rps         VEE N9754047  1k  
R_Rps1         N9753297 N9752963  1 
R_Rps2         VEE N9753297  1.390000e+002
G_Gps1         N9752963 VEE N9754047 VEE -1.000000e-005
G_Gps2         VM VEE N9752963 VEE -1

*** CMRR ***
E_Ecm         N97531790 VEE VCM VEE 1
C_Ccm         N97531790 N9793192  16m  
L_Lcm         N9794564 VEE 3.181507e-004
R_Rcm         VEE N9793192  1Meg  
R_Rcm1         N9794564 N9793623  1  
R_Rcm2         VEE N9794564  1.999000e+003
G_Gcm1         N9793623 VEE N9793192 VEE -3.162278e-005
G_Gcm2         VM VEE N9793623 VEE -1

*** O/P Stage ***
G_Go         VO VEE N9752755 VEE -1.262037e-003
R_Ro         VEE VO 7.923700e+002
V_Vs1         N97533970 N9752921 1.378142e-002
V_Vs2         N9753531 VEE 1.432562e-002
D_Ds1         VO N9752921 diodemacro 
D_Ds2         N9752867 VO diodemacro 
X_Hs1    N9753481 VSH VINT N97533970 OpAmp_Hs1 
X_Hs2    N9753481 VO N9752867 N9753531 OpAmp_Hs2 

D_D5         VSH N9754491 diodemacro 
D_D6         N9754425 VSH diodemacro 
I_Ish         N9754491 N9754425 DC 8.000000e-002
D_D7         N9753217 N9754491 diodemacro 
D_D8         N9754425 N9753217 diodemacro 

***********
.model diodemacro d(n=0.001)  
.ENDS MAX4091
*******************
.subckt OpAmp_Hs1 1 2 3 4  
H_Hs1         3 4 VH_Hs1 4.903738e+001
VH_Hs1         1 2 0V
.ends OpAmp_Hs1
.subckt OpAmp_Hs2 1 2 3 4  
H_Hs2         3 4 VH_Hs2 2.713818e+001
VH_Hs2         1 2 0V
.ends OpAmp_Hs2
.subckt OpAmp_FLq 1 2 3 4  
F_FLq         3 4 VF_FLq -1
VF_FLq         1 2 0V
.ends OpAmp_FLq
***********
.subckt nmosmacro d g s b
m1 d g s b nmos
.model nmos nmos(VTO=0.5 KP=100E-6 w=20u l=1u)
.ends
*******************



* Copyright (c) 2003-2015 Maxim Integrated Products.  All Rights Reserved.